US08975265B2
(1-{4-[8-((E)-2-carbamoyl-vinyl)-6-methyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert.-butyl ester
50 mg (0.09 mmol) {1-[4-(8-Bromo-6-methyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester, 13.4 mg (0.19 mmol) acryl amide, 4.86 mg (0.016 mmol) tri-2-tolylphosphane, 2.1 mg (0.009 mmol) palladium(II) acetate and 0.02 mL (0.1 mmol) triethylamine in 0.7 mL degassed acetonitrile were heated in the microwave at 110° C. for 60′. Due to an incomplete reaction additional 13.3 mg acrylamide and 4.2 mg palladium(II) acetate were added, and heating in the microwave was continued for two hours. The reaction mixture was poured on water/saturated ammonium chloride/dichloromethane and vigorously stirred for 30 minutes. The organic phase was separated and the aqueous phase was once more extracted with dichloromethane. The combined organic extracts were washed twice with brine, dried, and the solvent was removed. The crude product (76 mg) was purified by chromatography on silicagel (eluents: hexane/ethyl acetate) yielding 24.2 mg (49.3%) of the desired compound.

reactant | {1-[4-(8-Bromo-6-methyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 0.09 mmol, 50 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2Br)C)C1C1=CC=CC=C1)=O | C29H30BrN3O2
reactant | acryl amide | 0.19 mmol, 13.4 mg | C(C=C)(=O)N | C3H5NO
reactant | tri-2-tolylphosphane | 0.016 mmol, 4.86 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 0.1 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
reactant | acrylamide | 13.3 mg | C(C=C)(=O)N | C3H5NO
catalyst | palladium(II) acetate | 0.009 mmol, 2.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 4.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | C(C)#N | C2H3N
product | (1-{4-[8-((E)-2-carbamoyl-vinyl)-6-methyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert.-butyl ester | 24.2 mg, 49.3% | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2\C=C\C(N)=O)C)C1C1=CC=CC=C1)=O | C32H34N4O3
